* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat Dec  9 19:20:46 2023
* Design path:          /eda/Mentor/Tanner/TannerTools_v2022.2/Tutorials/prooog/lib.defs
* Library:              prooog
* Cell:                 CLA_4bitadderall
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt inverter In Out Gnd Vdd 
* Library name: prooog
* Cell name: inverter
* View name: schematic
* PORT=Out TYPE=Out
* PORT=In TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other

MMn1 Out In Gnd Gnd NMOS25 w=1u l=250n m=1 ad=650f pd=3.3u as=650f ps=3.3u nrd=650m nrs=650m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=3300 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=2u l=250n m=1 ad=1.3p pd=5.3u as=1.3p ps=5.3u nrd=325m nrs=325m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=4300 $w=400 $h=600
.ends

.subckt DPL_xor A B out_xor Gnd Vdd 
* Library name: prooog
* Cell name: DPL_xor
* View name: schematic
* PORT=out_xor TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=B TYPE=In
* PORT=Gnd TYPE=Other

Xinverter_1 B N_1 Gnd Vdd inverter $ $x=750 $y=1800 $w=900 $h=1800 $r=270
Xinverter_2 A N_2 Gnd Vdd inverter $ $x=650 $y=5700 $w=900 $h=1800 $r=90
MMn1 out_xor N_2 B Gnd NMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=3900 $w=600 $h=400 $r=90
MMn2 out_xor A N_1 Gnd NMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=6400 $w=600 $h=400 $r=90
MMp1 N_2 N_1 out_xor Vdd PMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=2300 $w=600 $h=400 $r=270 $m
MMp2 A B out_xor Vdd PMOS25 w=500n l=250n m=1 ad=325f pd=2.3u as=325f ps=2.3u nrd=1.3 nrs=1.3 mult=1 delvto=0 mulu0=1 $ $x=3700 $y=4900 $w=600 $h=400 $r=270 $m
.ends

.subckt or_with_inverter A B out_or Gnd Vdd 
* Library name: prooog
* Cell name: or_with_inverter
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=Gnd TYPE=Other
* PORT=B TYPE=In
* PORT=out_or TYPE=Out

Xinverter_1 N_2 out_or Gnd Vdd inverter $ $x=6600 $y=3350 $w=1800 $h=900
MMn1 N_2 A Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3800 $y=2800 $w=400 $h=600
MMn2 N_2 B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4800 $y=2800 $w=400 $h=600
MMp1 N_1 B Vdd Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=4600 $w=400 $h=600
MMp3 N_2 A N_1 Vdd PMOS25 w=1.25u l=250n m=1 ad=812.5f pd=3.8u as=812.5f ps=3.8u nrd=520m nrs=520m mult=1 delvto=0 mulu0=1 $ $x=4300 $y=3800 $w=400 $h=600
.ends

.subckt TG_hf_AND A B out_and Gnd Vdd 
* Library name: prooog
* Cell name: TG_hf_AND
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=out_and TYPE=Out
* PORT=B TYPE=In
* PORT=A TYPE=In

Xinverter_1 B N_1 Gnd Vdd inverter $ $x=2400 $y=3550 $w=1800 $h=900
MMn1 out_and B A Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3900 $y=5200 $w=600 $h=400 $r=90
MMn2 out_and N_1 Gnd Gnd NMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3900 $y=3100 $w=600 $h=400 $r=90
MMp1 A N_1 out_and Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3900 $y=4100 $w=600 $h=400 $r=270 $m
.ends

.subckt c1 A0 B0 C0 C1 Gnd Vdd 
* Library name: prooog
* Cell name: c1
* View name: schematic
* PORT=A0 TYPE=In
* PORT=B0 TYPE=In
* PORT=C0 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=C1 TYPE=Out

Xor_with_inverter_1 A0 B0 N_3 Gnd Vdd or_with_inverter $ $x=2300 $y=4900 $w=1800 $h=1000
Xor_with_inverter_2 N_1 N_2 C1 Gnd Vdd or_with_inverter $ $x=6600 $y=4900 $w=1800 $h=1000
XTG_hf_AND_1 A0 B0 N_2 Gnd Vdd TG_hf_AND $ $x=2300 $y=3700 $w=1800 $h=1000
XTG_hf_AND_2 N_3 C0 N_1 Gnd Vdd TG_hf_AND $ $x=4400 $y=4900 $w=1800 $h=1000
.ends

.subckt C2 A0 A1 B0 B1 C0 C2 Gnd Vdd 
* Library name: prooog
* Cell name: C2
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=B1 TYPE=In
* PORT=A1 TYPE=In
* PORT=C2 TYPE=Out
* PORT=A0 TYPE=In
* PORT=C0 TYPE=In
* PORT=B0 TYPE=In

Xc1_1 A0 B0 C0 N_1 Gnd Vdd c1 $ $x=3500 $y=4100 $w=1800 $h=600
Xor_with_inverter_1 A1 B1 N_4 Gnd Vdd or_with_inverter $ $x=3300 $y=5000 $w=1800 $h=1000
Xor_with_inverter_2 N_2 N_3 C2 Gnd Vdd or_with_inverter $ $x=7600 $y=5000 $w=1800 $h=1000
XTG_hf_AND_1 A1 B1 N_3 Gnd Vdd TG_hf_AND $ $x=3300 $y=3000 $w=1800 $h=1000
XTG_hf_AND_2 N_4 N_1 N_2 Gnd Vdd TG_hf_AND $ $x=5400 $y=5000 $w=1800 $h=1000
.ends

.subckt C3 A0 A1 A2 B0 B1 B2 C0 C3 Gnd Vdd 
* Library name: prooog
* Cell name: C3
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A0 TYPE=In
* PORT=B1 TYPE=In
* PORT=C3 TYPE=Out
* PORT=A2 TYPE=In
* PORT=C0 TYPE=In
* PORT=B2 TYPE=In
* PORT=B0 TYPE=In
* PORT=A1 TYPE=In

XC2_1 A0 A1 B0 B1 C0 N_1 Gnd Vdd C2 $ $x=2500 $y=3200 $w=1800 $h=1000
Xor_with_inverter_1 A2 B2 N_4 Gnd Vdd or_with_inverter $ $x=2500 $y=4300 $w=1800 $h=1000
Xor_with_inverter_2 N_2 N_3 C3 Gnd Vdd or_with_inverter $ $x=6800 $y=4300 $w=1800 $h=1000
XTG_hf_AND_1 A2 B2 N_3 Gnd Vdd TG_hf_AND $ $x=2500 $y=1500 $w=1800 $h=1000
XTG_hf_AND_2 N_4 N_1 N_2 Gnd Vdd TG_hf_AND $ $x=4600 $y=4300 $w=1800 $h=1000
.ends

.subckt C4 A0 A1 A2 A3 B0 B1 B2 B3 C0 C4 Gnd Vdd 
* Library name: prooog
* Cell name: C4
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=C4 TYPE=Out
* PORT=B1 TYPE=In
* PORT=A2 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=A0 TYPE=In
* PORT=A1 TYPE=In
* PORT=B0 TYPE=In
* PORT=A3 TYPE=In
* PORT=B3 TYPE=In
* PORT=B2 TYPE=In
* PORT=C0 TYPE=In

XC3_1 A0 A1 A2 B0 B1 B2 C0 N_1 Gnd Vdd C3 $ $x=3200 $y=3600 $w=1800 $h=1400
Xor_with_inverter_1 A3 B3 N_4 Gnd Vdd or_with_inverter $ $x=3100 $y=4900 $w=1800 $h=1000
Xor_with_inverter_2 N_2 N_3 C4 Gnd Vdd or_with_inverter $ $x=7400 $y=4900 $w=1800 $h=1000
XTG_hf_AND_1 A3 B3 N_3 Gnd Vdd TG_hf_AND $ $x=3100 $y=2100 $w=1800 $h=1000
XTG_hf_AND_2 N_4 N_1 N_2 Gnd Vdd TG_hf_AND $ $x=5200 $y=4900 $w=1800 $h=1000
.ends

.subckt CLA_4bitadderall A0 A1 A2 A3 B0 B1 B2 B3 C0 C1 C2 C3 C4 S0 S1 S2 S3 Gnd Vdd 
* Library name: prooog
* Cell name: CLA_4bitadderall
* View name: schematic
* PORT=B1 TYPE=In
* PORT=A2 TYPE=In
* PORT=A3 TYPE=In
* PORT=A1 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=S0 TYPE=Out
* PORT=C1 TYPE=Out
* PORT=C2 TYPE=Out
* PORT=C3 TYPE=Out
* PORT=S2 TYPE=Out
* PORT=C4 TYPE=Out
* PORT=S1 TYPE=Out
* PORT=S3 TYPE=Out
* PORT=B2 TYPE=In
* PORT=B3 TYPE=In
* PORT=C0 TYPE=In
* PORT=A0 TYPE=In
* PORT=B0 TYPE=In

Xc1_1 A0 B0 C0 C1 Gnd Vdd c1 $ $x=4600 $y=7700 $w=1800 $h=600
XC2_1 A0 A1 B0 B1 C0 C2 Gnd Vdd C2 $ $x=4600 $y=5700 $w=1800 $h=1000
XC3_1 A0 A1 A2 B0 B1 B2 C0 C3 Gnd Vdd C3 $ $x=4700 $y=3200 $w=1800 $h=1400
XC4_1 A0 A1 A2 A3 B0 B1 B2 B3 C0 C4 Gnd Vdd C4 $ $x=4700 $y=1300 $w=1800 $h=1800
XDPL_xor_1 A0 B0 N_1 Gnd Vdd DPL_xor $ $x=4600 $y=9700 $w=1800 $h=1000
XDPL_xor_2 N_1 C0 S0 Gnd Vdd DPL_xor $ $x=7400 $y=9700 $w=1800 $h=1000
XDPL_xor_3 A1 B1 N_2 Gnd Vdd DPL_xor $ $x=4600 $y=8600 $w=1800 $h=1000
XDPL_xor_4 N_2 C1 S1 Gnd Vdd DPL_xor $ $x=7400 $y=8600 $w=1800 $h=1000
XDPL_xor_5 A2 B2 N_3 Gnd Vdd DPL_xor $ $x=4600 $y=6800 $w=1800 $h=1000
XDPL_xor_6 N_3 C2 S2 Gnd Vdd DPL_xor $ $x=7400 $y=6800 $w=1800 $h=1000
XDPL_xor_7 A3 B3 N_4 Gnd Vdd DPL_xor $ $x=4600 $y=4600 $w=1800 $h=1000
XDPL_xor_8 N_4 C3 S3 Gnd Vdd DPL_xor $ $x=7400 $y=4600 $w=1800 $h=1000
.ends



